US05166204
To 20 ml of N,N-dimethylformamide were added 1.60 g of 2-benzofurancarbaldehyde and 4.90 g of methyltriphenylphosphonium iodide. Thereto was added 0.50 g of 60% sodium hydride with stirring under ice cooling. The mixture was stirred at room temperature for 1 hour. To the reaction mixture was added 100 ml of n-hexane. The resulting mixture was washed with water and an aqueous saturated sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: n-hexane) to obtain 0.40 g (yield: 25%) of 2-vinylbenzofuran as a colorless oily material.

reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | 2-benzofurancarbaldehyde | 1.60 g | O1C(=CC2=C1C=CC=C2)C=O | C9H6O2
reactant | methyltriphenylphosphonium iodide | 4.90 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydride | 0.50 g | [H-].[Na+]
solvent | n-hexane | 100 ml | CCCCCC | C6H14
product | 2-vinylbenzofuran | 0.40 g, yield: 25% | C(=C)C=1OC2=C(C1)C=CC=C2 | C10H8O
